US09359358B2
Step 5: 4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexanone
2-[2-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)pyridin-4-yl]propan-2-ol (0.049 g, 0.14 mmol) was dissolved in acetone (3.7 mL) A solution of 12.0 M hydrogen chloride in water (0.43 mL, 5.2 mmol) was added and was stirred at 25° C. for 16 hours at which time LCMS showed about 70% reaction was complete. An additional 12.0 M hydrogen chloride in water (0.43 mL, 5.2 mmol) was added and was stirred for 3 hours; LCMS showed ˜90% reaction was complete and was quenched into excess NaHCO3, extracted with EtOAc and the organic extract was evaporated to give the product. This was used in the next reaction without purification. MS (ES): 318 (M+1).

reactant | 2-[2-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)pyridin-4-yl]propan-2-ol | 0.14 mmol, 0.049 g | O1CCOC12CCC(CC2)OC2=NC(=CC(=C2)C(C)(C)O)C(F)(F)F | C17H22F3NO4
reactant | water | 5.2 mmol, 0.43 mL | O | H2O
reactant | water | 5.2 mmol, 0.43 mL | O | H2O
solvent | acetone | 3.7 mL | CC(=O)C | C3H6O
solvent | hydrogen chloride | 12.0 M | Cl | ClH
solvent | hydrogen chloride | 12.0 M | Cl | ClH
product | 4-{[4-(1-hydroxy-1-methylethyl)-6-(trifluoromethyl)pyridin-2-yl]oxy}cyclohexanone | OC(C)(C)C1=CC(=NC(=C1)C(F)(F)F)OC1CCC(CC1)=O | C15H18F3NO3
